US05760059
1-naphthyl hydrazine
Sodium nitrite (4.8 g) in water (20 ml) was added over 15 minutes to a stirred ice-cold suspension of 1-naphthylamine (9.58 g) in 6M hydrochloric acid (80 ml). After an additional 30 minutes in the ice bath, stannous chloride (44.5 9) in 6M hydrochloric acid (80 ml) was added slowly and the resulting suspension was stirred at O0 for 3 hr. The resulting solid was filtered off and dissolved in a mixture of 40% potassium hydroxide solution (100 ml) and ethyl acetate (150 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried and concentrated under reduced pressure to afford the title compound as a purple solid (10.58 g Rf= 0.1 in EA/CH (1/4)).

reactant | Sodium nitrite | 4.8 g | N(=O)[O-].[Na+]
reactant | 1-naphthylamine | 9.58 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 6M, 80 ml | Cl | ClH
solvent | hydrochloric acid | 6M, 80 ml | Cl | ClH
product | 1-naphthyl hydrazine | 10.58 g | C1(=CC=CC2=CC=CC=C12)NN | C10H10N2
